US06166011
N-methylmorpholine (0.47 ml) was added to a solution of (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid (352.6 mg) [see Preparation 3], hydroxybenzotriazole hydrate (338.4 mg), N-benzyloxycarbonyl-1,2-diaminoethane hydrochloride (499.5 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (552.7 mg) in dichloromethane (15 ml). The reaction mixture was stirred at room temperature for 18 hours, after which time the mixture was diluted with water and the organic layer was separated, dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 1:1, changing to 1:9, by volume, hexane:ethyl acetate to afford benzyl N-[2-([(2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinyl]carbonylamino)ethyl]carbamate (550 mg) as an oil.

reactant | N-methylmorpholine | 0.47 ml | CN1CCOCC1 | C5H11NO
reactant | (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid | 352.6 mg | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)O | C13H14N2O3
reactant | hydroxybenzotriazole hydrate | 338.4 mg | O.OC1=CC=CC=2NN=NC21
reactant | N-benzyloxycarbonyl-1,2-diaminoethane hydrochloride | 499.5 mg | Cl.C(C1=CC=CC=C1)OC(=O)NCCN
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 552.7 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | benzyl N-[2-([(2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinyl]carbonylamino)ethyl]carbamate | 550 mg | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)NCCNC(OCC2=CC=CC=C2)=O | C23H26N4O4
